US07700786B2
Chloromethyl methyl ether (0.16 g, 2.0 mmol) was added to a solution of sodium hydride (60% in oil, 0.09 g, 2.2 mmol) and N-methyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.67 g, 2.0 mmol) in DMF (10 ml) at 0° C., and while the mixture was allowed to have room temperature gradually, the mixture was stirred overnight. After completion of the reaction, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a colorless viscous substance of N-methyl-N-methoxymethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (0.18 g, yield: 23.8%). 1H-NMR (CDCl3, TMS, ppm): δ 1.87 (s, 3H), 3.52 (s, 3H), 3.53 (s, 3H), 5.18 (s, 2H), 5.46 (s, 1H), 7.80-7.95 (m, 1H), 8.50-8.65 (m, 1H).

reactant | Chloromethyl methyl ether | 2.0 mmol, 0.16 g | COCCl | C2H5ClO
reactant | sodium hydride | 2.2 mmol, 0.09 g | [H-].[Na+]
reactant | N-methyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 2.0 mmol, 0.67 g | CNC(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F | C12H10ClF3N4O2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-methyl-N-methoxymethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 0.18 g, yield: 23.8% | CN(C(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F)COC | C14H14ClF3N4O3
